US05439925
(a) Methyl 4-(1,3-dioxolanyl)benzoate
8.2 g (0.05 mol) of methyl 4-formylbenzoate, 25 ml of ethylene glycol, 3.5 g of ZnCl2 and 200 ml of xylene are introduced into a round-bottomed flask. The mixture is heated to reflux and the water formed is separated after settling has taken place, the organic phase is evaporated to dryness, the reaction medium is poured into water, the mixture is extracted with ethyl ether and the organic phase is separated after settling has taken place, dried over magnesium sulphate and evaporated. 10.4 g (100%) of the expected product are collected in the form of a colorless oil.

reactant | methyl 4-formylbenzoate | 0.05 mol, 8.2 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | ethylene glycol | 25 ml | C(CO)O | C2H6O2
reactant | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | ZnCl2 | 3.5 g | [Cl-].[Cl-].[Zn+2]
solvent | water | O | H2O
product | Methyl 4-(1,3-dioxolanyl)benzoate | O1C(OCC1)C1=CC=C(C(=O)OC)C=C1 | C11H12O4
